US04476308
Preparation of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide
2.0 g of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide are heated to reflux for 3 hours in 60 ml of chloroform and 1.5 ml of acetyl chloride. After evaporation of the volatile constituents, the residue is treated three times with toluene and in each case again evaporated in vacuo. The residue is chromatographed over aluminum oxide (activity grade III, neutral). The (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide which is extracted with chloroform has a melting point of 121°-122° after recrystallization from diethyl ether.

reactant | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | 2.0 g | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
reactant | acetyl chloride | 1.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)OC(C)=O)=O)=O | C17H29N3O4
